US07776869B2
To a solution of 2-methyl-3-nitroaniline (5.0 g, 32.9 mmol) in 120 ml of CH2Cl2 was added 120 ml of saturated NaHCO3 and bromoacetyl bromide (2.85 ml, 6.6 g, 32.9 mmol). The reaction was stirred at room temperature for 64 hours. The layers were separated, and the organic layer was washed with water, brine and then dried over MgSO4. Solvent evaporation afforded 2-bromo-N-(2-methyl-3-nitrophenyl)acetamide as a yellow solid.

reactant | 2-methyl-3-nitroaniline | 32.9 mmol, 5.0 g | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | NaHCO3 | 120 ml | C(=O)(O)[O-].[Na+]
reactant | bromoacetyl bromide | 32.9 mmol, 2.85 ml, 6.6 g | BrCC(=O)Br | C2H2Br2O
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-N-(2-methyl-3-nitrophenyl)acetamide | BrCC(=O)NC1=C(C(=CC=C1)[N+](=O)[O-])C | C9H9BrN2O3
